US09403813B2
4-Chloro-2-(2H-1,2,3-triazol-2-yl)benzoic acid (A-1-1)
Cs2CO3 (12.0 g, 37 mmol) was added portionwise to a rt solution of commercially available 4-chloro-2-iodobenzoic acid (5.22 g, 18.5 mmol) in DMF (25 mL) followed by 1H-1,2,3-triazole (1.61 mL, 27.8 mmol) and Cu(I)I (210 mg, 1.1 mmol). The resulting blue suspension was stirred at 120° C. for 30 min, then the rxn mixture was quenched with 2M aq. HCl and filtered through a celite plug before being extracted with DCM (3×). The combined org. layers were dried (Na2SO4), filtered and evaporated in vacuo to give the crude product that was purified by FC (Biotage SP1: eluting with DCM/MeOH 95:5+0.1% AcOH) to give the title compound A-1-1 as a brown solid. LC-MS A: tR=0.66 min; [M(35Cl)+H]+=224.10.

reactant | Cs2CO3 | 37 mmol, 12.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-chloro-2-iodobenzoic acid | 18.5 mmol, 5.22 g | ClC1=CC(=C(C(=O)O)C=C1)I | C7H4ClIO2
reactant | 1H-1,2,3-triazole | 27.8 mmol, 1.61 mL | N1N=NC=C1 | C2H3N3
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-2-(2H-1,2,3-triazol-2-yl)benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)N1N=CC=N1 | C9H6ClN3O2
